US05256780
A mixture of chromium trioxide (1.2 g) and pyridine (1.9 g) in dichloromethane was stirred at ambient temperature for 15 minutes, and then 2-[3-methyl-1-(phenylsulfonyl)indol-2-yl]ethanol (630 mg) in dichloromethane [2 ml) was added. The resultant mixture was stirred at room temperature for 15 minutes. The separated organic layer was washed with water and brine, dried over anhydrous magnesium sulfate, and evaporated in vacuo. The residue was chromatographed over silica gel (eluted with 5% ethyl acetate in toluene) to give 3-methyl-1-(phenylsulfonyl)-2-indole acetaldehyde (423 mg).

reactant | pyridine | 1.9 g | N1=CC=CC=C1 | C5H5N
reactant | 2-[3-methyl-1-(phenylsulfonyl)indol-2-yl]ethanol | 630 mg | CC1=C(N(C2=CC=CC=C12)S(=O)(=O)C1=CC=CC=C1)CCO | C17H17NO3S
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | chromium trioxide | 1.2 g | [O-2].[O-2].[O-2].[Cr+6]
product | 3-methyl-1-(phenylsulfonyl)-2-indole acetaldehyde | 423 mg | CC1=C(N(C2=CC=CC=C12)S(=O)(=O)C1=CC=CC=C1)CC=O | C17H15NO3S
